US06515124B2
To a solution of (Z)-2-[[4-[[[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]benzyl]amino]carbonyl]-2,6-dimethylbenzoyl]amino]-3-(2,4-dimethylthiazol-5-yl)propenoic acid methyl ester (47 mg, 0.0773 mmol) in THF (1 mL) was added a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran (0.085 mmol, 85 μL) and the reaction was stirred for 3 days at ambient temperature. The reaction was diluted with ethyl acetate and was then washed with in turn with water and brine. The organic layer was dried (MgSO4), filtered and evaporated in vacuo to yield 39 mg of (Z)-2-[[4-[[(3-hydroxybenzyl)amino]carbonyl]-2,6-dimethylbenzoyl]amino]-3-(2,4-dimethylthiazol-5-yl)propenoic acid methyl ester as a yellow solid (quantitative yield).

reactant | (Z)-2-[[4-[[[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]benzyl]amino]carbonyl]-2,6-dimethylbenzoyl]amino]-3-(2,4-dimethylthiazol-5-yl)propenoic acid methyl ester | 0.0773 mmol, 47 mg | COC(/C(=C/C1=C(N=C(S1)C)C)/NC(C1=C(C=C(C=C1C)C(=O)NCC1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)C)=O)=O | C32H41N3O5SSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 0.085 mmol, 85 μL | O1CCCC1 | C4H8O
product | (Z)-2-[[4-[[(3-hydroxybenzyl)amino]carbonyl]-2,6-dimethylbenzoyl]amino]-3-(2,4-dimethylthiazol-5-yl)propenoic acid methyl ester | 39 mg, quantitative yield | COC(/C(=C/C1=C(N=C(S1)C)C)/NC(C1=C(C=C(C=C1C)C(=O)NCC1=CC(=CC=C1)O)C)=O)=O | C26H27N3O5S
